US06936607B2
N-ISOPROPYL-5-METHYL-2-NITROANILINE:
A mixture of 2-fluoro-4-methyl-1-nitrobenzene (250 mg, 1.6 mmol), triethylamine (200 mg, 2.0 mmol), and 2-propanamine (200 mg, 3.4 mmol) in tetrahydrofuran (1 mL) was heated at 25° C. for 5 hours. The crude product was purified by preparative thin-layer chromatography [eluent: hexane/EtOAc (1:2)], giving the desired product (150 mg, 48%).

reactant | 2-fluoro-4-methyl-1-nitrobenzene | 1.6 mmol, 250 mg | FC1=C(C=CC(=C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | triethylamine | 2.0 mmol, 200 mg | C(C)N(CC)CC | C6H15N
reactant | 2-propanamine | 3.4 mmol, 200 mg | CC(C)N | C3H9N
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | N-ISOPROPYL-5-METHYL-2-NITROANILINE | 150 mg, 48% | C(C)(C)NC1=C(C=CC(=C1)C)[N+](=O)[O-] | C10H14N2O2
